US08541573B2
Preparation of 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetic acid AC3
The ethyl 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetate (10.45 g, 27.5 mmol) was dissolved in a mixture of methanol (150 ml), dioxane (40 ml) and aqueous NaOH solution (4 M, 41.3 ml, 165.2 mmol, 6 eq.) and the solution was stirred overnight When the reaction had ended (TLC control, MC/methanol 95:5), the solution was concentrated. The crude product was taken up in ethyl acetate (600 ml) and the mixture was . . . with KHSO4 solution (0.5 M, 600 ml). The aqueous phase was extracted once more with ethyl acetate (100 ml) and the combined organic phases were washed with sat. NaCl solution (500 ml), dried over Na2SO4 and concentrated. Yield: 9.4 g, 97%.

reactant | ethyl 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetate | 27.5 mmol, 10.45 g | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CC(=O)OCC)(F)F | C16H20F3NO4S
reactant | NaOH | 165.2 mmol, 4 M, 41.3 ml, 6 eq. | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetic acid | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CC(=O)O)(F)F | C14H16F3NO4S
